US05317025
Sodium methylate (5.9 g) is added in portions to a solution of 1-methylpiperidine-4-thiol (14 g) in anhydrous tetrahydrofuran (100 ml) at room temperature. After 2 hours at this temperature, chloroacetone (8.8 ml) is added dropwise. After 24 hours, the precipitate is filtered off and the filtrate is concentrated and chromatographed on silica gel (eluent: ethyl acetate, then ethanol) to give 1-methyl-4-[(2-oxopropyl)thio]-piperidine (11.5 g) in the form of an oil.

reactant | Sodium methylate | 5.9 g | C[O-].[Na+]
reactant | 1-methylpiperidine-4-thiol | 14 g | CN1CCC(CC1)S | C6H13NS
reactant | chloroacetone | 8.8 ml | ClCC(C)=O | C3H5ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-methyl-4-[(2-oxopropyl)thio]-piperidine | 11.5 g | CN1CCC(CC1)SCC(C)=O | C9H17NOS
